US06103910
a) (R)-1-[[2-[2-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-3-methyl-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester
To a solution of 236 mg (2.1 mmol) potassium tert-butylate in 2 ml dimethylformamide at room temperature was added dropwise a solution of 124 mg (1.0 mmol) 3-methylcatechol in 2 ml dimethylformamide. Stirring was continued for 2-3 min and a solution of 584 mg (2.0 mmol) (R)-(1) -bromoacetyl-pyrrolidine-2-carboxylic acid tert-butyl ester in 4 ml dimethylformamide was added within 1-2 min. The reaction mixture was stirred for additional 3 h at room temperature. The solvent was removed in vacuo and the residue purified by flash-chromatography to yield 356 mg (65%) of the title compound as a colorless oil. MS m/e (%): 547 (M+H+, 100), 491 (14), 435 (17).

reactant | potassium tert-butylate | 2.1 mmol, 236 mg | CC(C)(C)[O-].[K+]
reactant | 3-methylcatechol | 1.0 mmol, 124 mg | CC1=C(C(O)=CC=C1)O | C7H8O2
reactant | bromoacetyl-pyrrolidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CCC1)C(CBr)=O | C11H18BrNO3
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (R)-1-[[2-[2-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-3-methyl-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 356 mg, 65% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=C(C(=CC=C1)C)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C29H42N2O8
